US06867320B2
According to the procedure described in the synthesis method of Intermediate 9 in Reference Example 2 (Step e-2), ethyl 3-(3-bromo-4-hydroxyphenyl)propionate and cyclohexanol were reacted and treated to obtain ethyl 3-(3-bromo-4-cyclohexyloxyphenyl)propionate (355 mg). According to the procedure described in the synthesis method of Compound of Example 001 (Preparation Method 4, Step d-1) with the modifications that the reaction was carried out for 17 hours, and the purification was performed by flash column chromatography (hexane:ethyl acetate 8:1), the above product was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (330 mg), 2 M aqueous sodium carbonate (0.9 ml) and (Ph3P)4Pd (105 mg) and treated to obtain the title compound (Intermediate 68, 260 mg).

reactant | ethyl 3-(3-bromo-4-hydroxyphenyl)propionate | BrC=1C=C(C=CC1O)CCC(=O)OCC | C11H13BrO3
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | ethyl 3-(3-bromo-4-cyclohexyloxyphenyl)propionate | 355 mg | BrC=1C=C(C=CC1OC1CCCCC1)CCC(=O)OCC | C17H23BrO3
